US09062028B2
Step C. Methyl 3-(((5-bromopyridin-2-yl)methoxy)carbonylamino)propanoate
The title compound was prepared using a procedure analogous to methyl 2-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)acetate except that 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl 4-nitrophenyl carbonate was replaced with (5-bromopyridin-2-yl)methyl 4-nitrophenyl carbonate and methyl 2-aminoacetate hydrochloride was replaced with methyl 3-aminopropanoate hydrochloride. LCMS, [M+H]+=317.0.

reactant | methyl 2-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)acetate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC=C(COC(=O)NCC(=O)OC)C=C2)C=CC=C1C | C32H36N2O6
reactant | 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl 4-nitrophenyl carbonate | C(OCC1=CC=C(C=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C35H34N2O7
reactant | (5-bromopyridin-2-yl)methyl 4-nitrophenyl carbonate | C(OCC1=NC=C(C=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H9BrN2O5
reactant | methyl 2-aminoacetate hydrochloride | Cl.NCC(=O)OC
reactant | methyl 3-aminopropanoate hydrochloride | Cl.NCCC(=O)OC
product | Methyl 3-(((5-bromopyridin-2-yl)methoxy)carbonylamino)propanoate | BrC=1C=CC(=NC1)COC(=O)NCCC(=O)OC | C11H13BrN2O4
